US07939533B2
b) 2-(3,5-Bis-trifluoromethyl-phenyl)-N-(6′-chloro-2-methyl-[3,4]bipyridinyl-3′-yl)-N-methyl-isobutyramide
To a solution of 2.77 g (11.9 mmol) (6′-chloro-2-methyl-[3,4′]bipyridinyl-3′-yl)-methyl-amine in 120 ml tetrahydrofuran 7.8 ml (12 mmol) of a 1.6 M solution of n-butyllithium in hexanes was added dropwise at −78° C. After 30 min. 4.2 g (13 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride were added. The reaction mixture was stirred at −78° C. for 5 min. and allowed to warm to room temperature during a period of 1 h. Dilution with 2 M aqueous sodium carbonate solution was followed by extraction with three portions of tert-butyl methyl ether. The combined organic layers were washed with 2 M aqueous sodium carbonate solution and brine, dried over sodium sulfate and concentrated in vacuo. Flash column chromatography gave 4.8 g (78%) of the title compound as an off-white solid.

reactant | (6′-chloro-2-methyl-[3,4′]bipyridinyl-3′-yl)-methyl-amine | 11.9 mmol, 2.77 g | ClC1=CC(=C(C=N1)NC)C=1C(=NC=CC1)C | C12H12ClN3
reactant | tetrahydrofuran | 12 mmol, 120 ml | O1CCCC1 | C4H8O
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride | 13 mmol, 4.2 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)Cl)(C)C)(F)F | C12H9ClF6O
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-N-(6′-chloro-2-methyl-[3,4]bipyridinyl-3′-yl)-N-methyl-isobutyramide | 4.8 g, 78% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C=1C(=NC=CC1)C)Cl)(C)C)(F)F | C24H20ClF6N3O
